### PR TITLE
[Merged by Bors] - refactor(AlgebraicGeometry): weaken `RingHom.PropertyIsLocal`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean [hunk 1]
```diff
@@ -470,11 +539,12 @@ private lemma respects_isOpenImmersion_aux {X Y : Scheme.{u}} [IsAffine Y] {U :
...
     exact this _ _ (IsLocalAtSource.comp hf _) V.2
   rw [HasRingHomProperty.iff_of_isAffine (P := P)] at hf ⊢
-  exact (isLocal_ringHomProperty P).StableUnderCompositionWithLocalizationAway.right _ a _ hf
+  exact hQ _ a _ hf
 
 /-- Any property of scheme morphisms induced by a property of ring homomorphisms is stable
 under composition with open immersions. -/
-instance respects_isOpenImmersion : P.Respects @IsOpenImmersion where
+lemma respects_isOpenImmersion (hQ : RingHom.StableUnderCompositionWithLocalizationAwayLeft Q) :
+    P.Respects @IsOpenImmersion where
```
Comment (erdOne) [inline Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:547]: This is no longer an instance. Does this cause problems?

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:547]: I am a bit sad about it, but I still agree that weakening is good. Maybe we can add a `HasStrongRingHomProperty` extending `HasRingHomProperty` with the `RingHom.StableUnderCompositionWithLocalizationAwayLeft` as an extra assumption? Or maybe even call the new `PropertyIsLocal` `PropertyIsPreLocal` and let `PropertyIsLocal` extend `PropertyIsPreLocal` with the additional field `RingHom.StableUnderCompositionWithLocalizationAwayLeft`.

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:547]: Then we would have alignment with the stacks project definition https://stacks.math.columbia.edu/tag/01SR.

Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:547]: Alternatively we could think about migrating to a type synonym `RingHomProperty` and then define all these properties as typeclasses.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 2]
```diff
@@ -747,6 +775,46 @@ theorem self_le_basicOpen_union_iff (s : Set Γ(X, U)) :
...
+    show _ ≫ Spec.map (f ≫ (Scheme.ΓSpecIso S).inv ≫
+      (Spec S).presheaf.map (homOfLE le_top).op) =
+      Spec.map f ∣_ basicOpen r ≫ _ ≫ Spec.map ((Scheme.ΓSpecIso R).inv ≫
+      (Spec R).presheaf.map (homOfLE le_top).op)
+    simp only [IsAffineOpen.isoSpec_hom, homOfLE_leOfHom, Spec.map_comp, Category.assoc,
+      Scheme.Opens.toSpecΓ_SpecMap_map_assoc, Scheme.Opens.toSpecΓ_top, Scheme.homOfLE_ι_assoc,
+      morphismRestrict_ι_assoc]
+    simp only [← SpecMap_ΓSpecIso_hom, ← Spec.map_comp, Category.assoc, Iso.inv_hom_id,
+      Category.comp_id, Category.id_comp]
+    rfl
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:816]: I wonder if one day `egg` with an AG tailored rule set can solve these goals.

File: Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean [hunk 3]
```diff
@@ -291,6 +291,30 @@ lemma stalkwiseIsLocalAtTarget_of_respectsIso (hP : RingHom.RespectsIso P) :
...
+  · intro X Y f U hf x
+    rw [Scheme.stalkMap_comp, hP.cancel_right_isIso]
+    exact hf _
+  · intro X Y f ι U hU hf x
+    have hy : x ∈ iSup U := by rw [hU]; trivial
+    obtain ⟨i, hi⟩ := Opens.mem_iSup.mp hy
+    rw [← hP.cancel_right_isIso _ ((U i).ι.stalkMap ⟨x, hi⟩)]
+    simpa [Scheme.stalkMap_comp] using hf i ⟨x, hi⟩
+
+lemma stalkwise_Spec_iff (hP : RingHom.RespectsIso P) {R S : CommRingCat} (φ : R ⟶ S) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/Constructors.lean:308]: Maybe `stalkwise_Spec_map_iff`? For some reason GH does not let me suggest changes.

File: Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean [hunk 4]
```diff
@@ -362,6 +362,73 @@ lemma containsIdentities (hP : RingHom.ContainsIdentities Q) : P.ContainsIdentit
...
+      (CommRingCat.ofHom f) i.1)).mpr (H i)
+  · intro R S T _ _ _ _ r _ f hf
+    have := AlgebraicGeometry.IsOpenImmersion.of_isLocalization (S := T) r
+    show P (Spec.map (CommRingCat.ofHom f ≫ CommRingCat.ofHom (algebraMap _ _)))
+    rw [Spec.map_comp]
+    exact IsLocalAtSource.comp hf ..
+
+open _root_.PrimeSpectrum in
+lemma of_isLocalAtSource_of_isLocalAtTarget [IsLocalAtTarget P] [IsLocalAtSource P] :
+    HasRingHomProperty P (fun f ↦ P (Spec.map (CommRingCat.ofHom f))) where
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:401]: I think `P` should be explicit here.

File: Mathlib/RingTheory/LocalProperties/Basic.lean [hunk 5]
```diff
@@ -110,14 +118,26 @@ def RingHom.HoldsForLocalizationAway : Prop :=
   ∀ ⦃R : Type u⦄ (S : Type u) [CommRing R] [CommRing S] [Algebra R S] (r : R)
     [IsLocalization.Away r S], P (algebraMap R S)
 
+/-- A property `P` of ring homs satisfies `RingHom.StableUnderCompositionWithLocalizationAwayLeft`
+if whenever `P` holds for `f` it also holds for the composition with
+localization maps on the left. -/
+def RingHom.StableUnderCompositionWithLocalizationAwayLeft : Prop :=
+  ∀ ⦃R : Type u⦄ (S : Type u) ⦃T : Type u⦄ [CommRing R] [CommRing S] [CommRing T] [Algebra R S]
+    (r : R) [IsLocalization.Away r S] (f : S →+* T), P f → P (f.comp (algebraMap R S))
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalProperties/Basic.lean:126]: Is this the right naming? In the `RingHom.comp` sense, we compose on the right here.

Comment (erdOne) [reply Mathlib/RingTheory/LocalProperties/Basic.lean:126]: Yeah I am taking the `>>` direction.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 6]
```diff
@@ -522,6 +537,19 @@ theorem exists_basicOpen_le {V : X.Opens} (x : V) (h : ↑x ∈ U) :
   rw [← this]
   exact ⟨Set.image_subset_iff.mpr h₂, ⟨_, h⟩, h₁, rfl⟩
 
+noncomputable
+instance {R : CommRingCat} {U} : Algebra R Γ(Spec R, U) :=
+  ((Scheme.ΓSpecIso R).inv ≫ (Spec R).presheaf.map (homOfLE le_top).op).toAlgebra
+
+@[simp]
+lemma algebraMap_Spec_obj {R : CommRingCat} {U} : algebraMap R Γ(Spec R, U) =
+    (Scheme.ΓSpecIso R).inv ≫ (Spec R).presheaf.map (homOfLE le_top).op := rfl
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineScheme.lean:546]: I think the lemmas concerning `algebraMap` are useful only when dealing with elements and smul etc, which we seldom do in AG.

File: Mathlib/AlgebraicGeometry/AffineScheme.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/AffineScheme.lean:816]: I think the main friction comes from (again!) the switch from category theoretic arrows to RingHoms and back.

File: Mathlib/RingTheory/LocalProperties/Basic.lean (hunk 5 above)
Comment (chrisflav) [reply Mathlib/RingTheory/LocalProperties/Basic.lean:127]: What about `StableUnderCompositionWithLocalizationAwaySource` vs `StableUnderCompositionWithLocalizationAwayTarget`? (In alignment with the `OfLocalizationSpan` terminology)?

File: Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:549]: For this specific case it might be nice to establish `RingHom.StableUnderCompositionWithLocalizationAwayLeft` <=> `Respects IsOpenImmersion` but then I think we can just use `HasRingHomProperty` + `Respects IsOpenImmersion` later on.

In general it might be nice to migrate to typeclasses for these ringhom properties. It doesn't cause any immediate pain for me though so I probably won't work on this refactor for the near future.

File: Mathlib/RingTheory/LocalProperties/Basic.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalProperties/Basic.lean]: Sure! Renamed.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
